US08664379B2
To a solution of 1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one (14 mg, 0.03 mmol) in anhydrous tetrahydrofuran (1 mL) at −78° C. in a dry flask equipped with an inlet of dry nitrogen was added fresh 1.6 M n-butyl lithium in n-hexane (40 μL, 0.06 mmol) with stirring. The reaction mixture was stirred at −78° C. for 30 minutes, then at 0° C. for 1 hour. The reaction mixture was re-cooled to −78° C., a solution of tert-butyl bromoacetate (98 mg, 0.50 mmol) in anhydrous tetrahydrofuran added (0.5 mL), and the reaction mixture stirred overnight, allowing it to warm up to room temperature. The reaction was followed by LCMS, and stirring was continued as needed until the starting material was consumed. The reaction mixture was quenched by addition of saturated aqueous ammonium chloride (5 mL) with stirring, concentrated under reduced pressure, diluted with ethyl acetate (10 mL) and diluted with aqueous ammonium chloride (5 mL). The aqueous phase was extracted with ethyl acetate (3×10 mL), and the combined organic phase was successively washed with 2N sodium carbonate (10 mL), 30% ammonium chloride (10 mL), brine (20 mL), and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave a crude mixture which was purified by reverse phase HPLC with a gradient of acetonitrile/water (2% to 98%) to afford tert-butyl 2-(1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate (12 mg, 0.02 mmol, 67%). LCMS mz 524.0 (M-tBu), 602.0 (M+Na), anal HPLC>98% in purity. 1H NMR (400 MHz; acetone-d6) δ7.77 (t, J=8.0 Hz, 1H); 7.60 (m, 2H); 7.38 (m, 2H); 7.11 (m, 1H); 7.00 (m, 1H); 6.81 (s, 1H); 5.35 (s, 2H); 3.80 (s, 3H); 2.70-3.30 (m, 3H); 2.40-2.60 (m, 2H); 1.48 (s, 9H).

reactant | 1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one | 0.03 mmol, 14 mg | FC1=C(CN2C(CCC3=CC(=C(C=C23)OC)C2=CC(=C(C=C2)C(F)(F)F)F)=O)C=CC(=C1)F | C24H17F6NO2
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 0.06 mmol, 40 μL | CCCCCC | C6H14
reactant | tert-butyl bromoacetate | 0.50 mmol, 98 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate | 0.02 mmol, 12 mg, 67% | FC1=C(CN2C(C(CC3=CC(=C(C=C23)OC)C2=CC(=C(C=C2)C(F)(F)F)F)CC(=O)OC(C)(C)C)=O)C=CC(=C1)F | C30H27F6NO4
